US07612075B2
B. Ethyl-(2-hydroxymethyl-5-chloro-phenoxy)-acetate.
To a solution of 4-chloro-2-hydroxy-benzylalcohol (9.7 g, 61.3 mmol) in 100 ml of DMF is added potassium carbonate (17 g, 123.1 mmol), and the resulting suspension is stirred for 15 minutes at room temperature. Ethyle bromoacetate (7.96 ml, 67 mmol) is added and the mixture is stirred at room temperature for two days. The mixture is poured in 500 ml of water, extracted with ethyl acetate (500 ml). The ethyl acetate layer is separated, washed with water (500 ml), brine (500 ml) and dried over magnesium sulfate. After concentration ethyl-(2-hydroxymethyl-5-chloro-phenoxy)-acetate is obtained as a white solid (13.7 g, 91% yield) C11H13ClO4, MS (M+) m/z: 244, 246, Cl pattern.

reactant | 4-chloro-2-hydroxy-benzylalcohol | 61.3 mmol, 9.7 g | ClC1=CC(=C(CO)C=C1)O | C7H7ClO2
reactant | potassium carbonate | 123.1 mmol, 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetate | 67 mmol, 7.96 ml | BrCC(=O)[O-]
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 500 ml | O | H2O
product | Ethyl-(2-hydroxymethyl-5-chloro-phenoxy)-acetate | 13.7 g, 91% yield | C(C)OC(COC1=C(C=CC(=C1)Cl)CO)=O | C11H13ClO4
